US06130234
5-[4-(4-Benzyl-piperidin-1-yl)-but-1-ynyl]-1H-indole-2,3-dione
A mixture of 4-benzyl-1-(3-butynyl)piperidine (904 mg, 4 mmol), Et3N (4 mL), CuI (76 mg, 0.4 mmol) and Pd(PPh3)2Cl2 (41 mg, 0.1 mmol) in DMF (10 mL) is stirred at room temperature under N2 for 30 min. 5-Iodoisatin (546 mg, 2 mmol) is added and stirring continued overnight. The mixture is evaporated and the residue purified by medium-pressure column chromatography on silica gel eluting with 50% EtOAc/hexanes (+1% Et3N) to give an orange solid (238 mg). The solid is recrystallized from hot 90:10 isopropanol:water to give the title compound as orange crystals (152 mg): mp 140-141° C.

reactant | 4-benzyl-1-(3-butynyl)piperidine | 4 mmol, 904 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCC#C | C16H21N
reactant | Et3N | 4 mL | CCN(CC)CC | C6H15N
reactant | 5-Iodoisatin | 2 mmol, 546 mg | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.4 mmol, 76 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 41 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-[4-(4-Benzyl-piperidin-1-yl)-but-1-ynyl]-1H-indole-2,3-dione | 238 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCC#CC=1C=C2C(C(NC2=CC1)=O)=O | C24H24N2O2
